US07411072B2
2-Chloro-5-(4-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures essentially as described in Example 219, below, and using 4-(trifluoromethyl)phenylboronic acid (114 mg, 0.60 mmol) and 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (156 mg, 0.48 mmol) provides the title compound. GC/MS data: retention times in minutes (MS data for M+.ion): 18.52 (384), 18.78(384)Mass Spec (EI+) 384.

reactant | 4-(trifluoromethyl)phenylboronic acid | 0.60 mmol, 114 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 5-bromomethylene-2-chloro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.48 mmol, 156 mg | BrC=C1C2=C(CCC3=C1C=CC(=C3)Cl)C=CC=C2 | C16H12BrCl
product | 2-Chloro-5-(4-trifluoromethyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | ClC1=CC2=C(C(C3=C(CC2)C=CC=C3)=CC3=CC=C(C=C3)C(F)(F)F)C=C1 | C23H16ClF3
